US06248739B1
N-(4-Chlorobenzyl)-6-{[(2-hydroxy-2-phenylethyl)(methyl)-amino]methyl}-1-methyl-4-oxo-1,4-dihydro-3quinolinecarboxamide
A solution of N-(4-chlorobenzyl)-6-(chloromethyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide (0.06 gm) from Preparation No. 35 in dry NMP (2 mL) containing diisopropylethylarnine (0.04 mL) is treated with α-(methylaminomethyl)-benzyl alcohol (0.04 gm). The reaction mixture is shaken at room temperature for 3 days then concentrated under reduced pressure. The residue is partioned between dichloromethane and water. The separated organic layer is washed with two additional portions of water, brine, dried (Na2SO4) and concentrated under reduced pressure. The residue is adsorbed onto silica and purified by flash column chromatography eluting with 2% to 6% methanol in dichloromethane and then by recrystallization from ethyl acetate-hexanes to afford 0.05 gm of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-6-(chloromethyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.06 gm | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CCl)C)C=C1 | C19H16Cl2N2O2
reactant | diisopropylethylarnine | 0.04 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | α-(methylaminomethyl)-benzyl alcohol | 0.04 gm | CNCC(C1=CC=CC=C1)O | C9H13NO
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | N-(4-Chlorobenzyl)-6-{[(2-hydroxy-2-phenylethyl)(methyl)-amino]methyl}-1-methyl-4-oxo-1,4-dihydro-3quinolinecarboxamide | 0.05 gm | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CN(C)CC(C2=CC=CC=C2)O)C)C=C1 | C28H28ClN3O3
